US08609688B2
[(2S)-4-(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)morpholin-2-yl]methanol trihydrochloride
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2S)-2-(hydroxymethyl)morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (4.60 mg, 0.00710 mmol) was dissolved in DCM (1 mL). 4M HCl/dioxane (1 mL) was added to the mixture and stirred at room temperature for 15 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (3.42 mg, 73.3%) as pale yellow solid.

reactant | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2S)-2-(hydroxymethyl)morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.00710 mmol, 4.60 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2C[C@H](OCC2)CO)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C37H41N7O4
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | [(2S)-4-(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)morpholin-2-yl]methanol trihydrochloride | 3.42 mg, 73.3% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C=2C=C(C=CC2)N2C[C@H](OCC2)CO)C=2C(=NC=CC2)N | InChI=1S/C32H33N7O2.3ClH/c33-29-26(6-2-15-35-29)30-37-28-12-11-27(21-4-1-5-24(18-21)38-16-17-41-25(19-38)20-40)36-31(28)39(30)23-9-7-22(8-10-23)32(34)13-3-14-32;;;/h1-2,4-12,15,18,25,40H,3,13-14,16-17,19-20,34H2,(H2,33,35);3*1H/t25-;;;/m0.../s1
